US07973169B2
39) N-(4,5-Diphenyl-thiazol-2-yl)-4-methoxy-benzamide
4,5-Diphenyl-thiazol-2-ylamine (50.5 mg, 0.200 mmol) and 4-methoxy-benzoyl chloride (34.1 mg, 0.200 mmol) were dissolved in 1,4-dioxane (2 mL) containing triethylamine (84.1 μL, 0.600 mmol). The reaction mixture was stirred overnight at room temperature. The crude product was filtered, evaporated to dryness, dissolved in 1 mL of dimethylsulfoxide and purified by reverse-phase preparative liquid chromatography (12.5 mg, 0.0323 mmol, 16.2%). ESI-MS m/z calc. 386.1, found 387.2 (M+1)+ Retention time 3.95 minutes.

reactant | 4,5-Diphenyl-thiazol-2-ylamine | 0.200 mmol, 50.5 mg | C1(=CC=CC=C1)C=1N=C(SC1C1=CC=CC=C1)N | C15H12N2S
reactant | 4-methoxy-benzoyl chloride | 0.200 mmol, 34.1 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(4,5-Diphenyl-thiazol-2-yl)-4-methoxy-benzamide | C1(=CC=CC=C1)C=1N=C(SC1C1=CC=CC=C1)NC(C1=CC=C(C=C1)OC)=O | C23H18N2O2S
